US07968552B2
In an atmosphere of nitrogen, under ice-cooling, methyl 4′-(methylsulfonyl)biphenyl-3-carboxylate was added to a THF suspension of lithium aluminum hydride, followed by stirring for 20 minute to obtain [4′-(methylsulfonyl)biphenyl-3-yl]methanol.

reactant | methyl 4′-(methylsulfonyl)biphenyl-3-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OC | C15H14O4S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | [4′-(methylsulfonyl)biphenyl-3-yl]methanol | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CO | C14H14O3S
